US05889056
Preparation of 2-Amino-6-(2-benzyloxy-1-iminoethylamino)-4,4-dioxo-4-thiahexanoic acid 1.67 hydrochloride 0.33 hydrobromide
t-Butyl-6-(2-benzyloxy-1-iminoethylamino)2-t-butoxycarbonylamino-4,4-dioxo-4-thiahexanoate hydrobromide (0.97 g) (prepared by a method analagous to that described in Example 1A from Intermediates A and 3B) was stirred in 4M HCl/dioxane (12 ml) at room temperature for 6 hours. The solvent was evaporated and the residual gum triturated with dry ether (20 ml). A white solid slowly formed on standing. The ether was decanted off and the very hygroscopic solid washed with fresh ether and dried in vacuo with warming to 65° C.

reactant | t-Butyl-6-(2-benzyloxy-1-iminoethylamino)2-t-butoxycarbonylamino-4,4-dioxo-4-thiahexanoate hydrobromide | 0.97 g | Br.C(C)(C)(C)OC(C(CS(CCNC(COCC1=CC=CC=C1)=N)(=O)=O)NC(=O)OC(C)(C)C)=O
solvent | HCl dioxane | 4M, 12 ml | Cl.O1CCOCC1
product | 2-Amino-6-(2-benzyloxy-1-iminoethylamino)-4,4-dioxo-4-thiahexanoic acid | NC(C(=O)O)CS(CCNC(COCC1=CC=CC=C1)=N)(=O)=O | C14H21N3O5S
